US08377922B2
Heptyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride
70.0 mg (0.124 mmol) of (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid obtained in Example 5-(a) and 88 μL (0.62 mmol) of heptyl alcohol were mixed, 1.55 mL (6.20 mmol) of 4N hydrogen chloride/1,4-dioxane solution was added to the mixture, and the resulting mixture was stirred under nitrogen gas atmosphere at 50° C. for 4 hours.

reactant | (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid | 0.124 mmol, 70.0 mg | O=C1N(CC2=C(C[C@H]1CC(=O)O)C=CC(=C2)OCCC=2N=C1N(CCCN1C(=O)OC(C)(C)C)C2)CC(F)(F)F | C27H33F3N4O6
reactant | heptyl alcohol | 0.62 mmol, 88 μL | C(CCCCCC)O | C7H16O
reactant | hydrogen chloride 1,4-dioxane | 6.20 mmol, 4N, 1.55 mL | Cl.O1CCOCC1
product | Heptyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride | Cl.O=C1N(CC2=C(C[C@H]1CC(=O)OCCCCCCC)C=CC(=C2)OCCC=2N=C1N(CCCN1)C2)CC(F)(F)F | InChI=1S/C29H39F3N4O4.ClH/c1-2-3-4-5-6-13-40-26(37)17-22-15-21-8-9-25(16-23(21)18-36(27(22)38)20-29(30,31)32)39-14-10-24-19-35-12-7-11-33-28(35)34-24;/h8-9,16,19,22H,2-7,10-15,17-18,20H2,1H3,(H,33,34);1H/t22-;/m0./s1
